US07569337B2
1-(2-Fluoro-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ol
500 mg (3.35 mmol) 1,2,3,4-Tetrahydro-quinolin-7-ol are dissolved in 8 mL DMF and stirred at 60° C. overnight with 0.325 mL (1.3 eq) 1-bromo-2-fluoroethane, in the presence of 0.63 mL (1.1 eq) diisopropylethylamine. The reaction mixture is extracted with 0.1 N aqu. HCl and ethyl acetate. The combined organic extracts are washed with brine, dried over sodium acetate and evaporated. The residue is column chromatographed (silica gel, ethyl acetate/petroleum ether 1:2 to 1:1) to yield 290 mg (44%) desired product as a brown oil.

reactant | 1,2,3,4-Tetrahydro-quinolin-7-ol | 3.35 mmol, 500 mg | N1CCCC2=CC=C(C=C12)O | C9H11NO
reactant | 1-bromo-2-fluoroethane | 0.325 mL, 1.3 eq | BrCCF | C2H4BrF
reactant | diisopropylethylamine | 0.63 mL, 1.1 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(2-Fluoro-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ol | 290 mg, 44% | FCCN1CCCC2=CC=C(C=C12)O | C11H14FNO
